* a vector missing the scale only by case is not the scale
* doc/codex/issues/0032.  The current plot's scale vector was identified by an
* unconditional cieq() in three places, so under distinguish a vector whose
* name differs from the scale's only in case was treated as the scale:
*
*   src/frontend/vectors.c  vec_eq()      -> print dropped its scale column
*   src/frontend/vectors.c  findvec_ally()-> ally silently omitted it
*   src/frontend/postcoms.c is_scale_vec_of_current_plot() -> unlet refused it
*
* One bug wearing three hats, so one deck asserts all three.  TIME is the twin
* and time is the scale; both are real vectors under distinguish, which is the
* mode that creates the situation in the first place.
*
* The twin has to be the scale's length -- print renders a length-1 vector in
* scalar form, with no columns at all, so 'let TIME = 5' would prove nothing --
* which is why it is time * 2.  'let' on the left-hand side also emits
* findvec()'s near-miss warning here, which is doc/codex/issues/0034 and is on
* cp_err, so it does not reach this reference.
*
* .tran's fourth argument, tmax, is given so that the run stores 16 timepoints
* instead of 59.  They are ngspice's own opening ramp -- doublings of tmax/1e4,
* which is 4e-07 here -- with the last two clamped by tstop, so every value is
* exact in binary and the table stays short.
*
* tests/bin/check.sh filters every line containing 'Index', 'time' or 'trans',
* so both table headers and the analysis banner are eaten and the evidence is
* the column count of the data rows:
*
*   print TIME   one number per row without the scale column, two with it
*   print ally   three with TIME missing from the plot listing, four with it
*
* The circuit is one source and one resistor rather than a divider so that the
* widest of those rows is four vectors.  print paginates at 8 + 16 per real
* vector against the 'width' variable, whose default is DEF_WIDTH = 80
* (src/include/ngspice/ftedefs.h:13), so a fifth column would split every ally
* table in two.
*
* The unlet refusal is on cp_err, which check.sh does not capture, so it is
* redirected with '>&' (src/frontend/streams.c:156) and read back, the shape
* tests/regression/casedist/vector-unlet-report.cir uses.  Two lines are read
* because the message begins with a newline, so the capture's first line is
* empty; both variables are preseeded and the two are concatenated, so an
* empty capture cannot be mistaken for a read line.  The token is upper case
* because the filter drops any line containing 'Warning'.
*
* The final 'print TIME' is the guard on the other half of the unlet: with the
* refusal gone the vector really is deleted, so print writes nothing at all
* between the two markers.  A fix that listed the twin in ally without being
* able to delete it would leave a sixteen-row table there.
.OPTIONS noacct
V1 in 0 dc 1.5
R1 in 0 1k
.tran 1m 4m 0 4m
.control
run
let TIME = time * 2
print TIME
print ally
set cap1 = "no_line_read"
set cap2 = "no_line_read"
unlet TIME >& vsc_unlet.txt
fopen f1 vsc_unlet.txt r
fread cap1 $f1 n1
fread cap2 $f1 n2
fclose $f1
strstr p1 "_$cap1$cap2" "cannot be deleted"
if $p1 < 0
  echo SCALE-TWIN-DELETED
else
  echo SCALE-TWIN-REFUSED
end
echo AFTER-UNLET-PRINT-BEGIN
print TIME
echo AFTER-UNLET-PRINT-END
.endc
.end
